US06214875B1
13-methyltetradecanoic acid is synthesized electrolytically from isovaleric acid and methyl hydrogen dodecanedioate in methanolic solution, based on Kolbe electrolysis.

reactant | isovaleric acid | C(CC(C)C)(=O)O | C5H10O2
reactant | methyl hydrogen dodecanedioate | C(CCCCCCCCCCC(=O)O)(=O)OC | C13H24O4
product | 13-methyltetradecanoic acid | CC(CCCCCCCCCCCC(=O)O)C | C15H30O2
